US07365095B2
A mixture of ((2R)-8-{[(trifluoromethyl)sulfonyl]oxy}-3,4-dihydro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate (0.50 g, 1.1 mmol), 2,5-dichlorophenylboronic acid (0.42 g, 2.2 mmol), potassium carbonate (0.46 g, 3.3 mmol) and lithium chloride (0.14 g, 3.3 mmol) in dioxane (3.75 ml) and water (1.25 mL) was purged with nitrogen for 30 minutes. Tetrakis(triphenylphosphine)palladium (0) (60 mg, 0.052 mmol) was added and the reaction mixture heated at 100° C. for 4 hours. The cooled reaction mixture was then partitioned between ethyl acetate (15 mL) and 1 M aqueous sodium hydroxide (15 mL). The organic layer was separated, washed with saturated brine (15 mL) dried over magnesium sulfate, filtered and concentrated under reduced pressure to afford an orange oil. Purification by flash chromatography using a solvent gradient of 5 to 20% ethyl acetate in hexane gave 0.46 g (90%) of [(2R)-8-(2,5-dichlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate as an off-white solid. HRMS: calcd for C23H20Cl2O4S+H+, 463.05321. found (ESI, [M+H]+), 463.0553.

reactant | ((2R)-8-{[(trifluoromethyl)sulfonyl]oxy}-3,4-dihydro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate | 1.1 mmol, 0.50 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=C2CC1)OS(=O)(=O)C(F)(F)F | C18H17F3O7S2
reactant | 2,5-dichlorophenylboronic acid | 2.2 mmol, 0.42 g | ClC1=C(C=C(C=C1)Cl)B(O)O | C6H5BCl2O2
reactant | potassium carbonate | 3.3 mmol, 0.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | lithium chloride | 3.3 mmol, 0.14 g | [Cl-].[Li+]
solvent | dioxane | 3.75 ml | O1CCOCC1 | C4H8O2
solvent | water | 1.25 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium | 0.052 mmol, 60 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [(2R)-8-(2,5-dichlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate | 0.46 g, 90% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=C2CC1)C1=C(C=CC(=C1)Cl)Cl | C23H20Cl2O4S
